US06699879B1
8-Fluoro-2-methoxyquinoline-4-carboxylic Acid Methyl Ester
8-Fluoro-2-chloroquinoline-4-carboxylic acid (0.986 g) suspended in dichloromethane (50 ml) was treated with dimethylformamide (3 drops) and oxalyl chloride (0.76 ml) and the mixture stirred for 2 h. Solvent was removed at reduced pressure. The residue was dissolved in methanol (50 ml) containing sodium methoxide (0.54 g) and stirred for 16 h. The solvent was removed at reduced pressure and the residue triturated with water. The precipitate was collected by filtration and column chromatographed (silica gel, 10→50% ethyl acetate/hexane) to give the title compound (0.184 g) as a colourless solid. m/z (API+): 236 (MH+). 1H NMR (CDCl3) δ: 4.02 (3H, s), 4.14 (3H, s), 7.36-7.41 (2H, m), 7.49 (1H, s), 8.37 -8.41 (1H, m).

reactant | 8-Fluoro-2-chloroquinoline-4-carboxylic acid | 0.986 g | FC=1C=CC=C2C(=CC(=NC12)Cl)C(=O)O | C10H5ClFNO2
reactant | oxalyl chloride | 0.76 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 8-Fluoro-2-methoxyquinoline-4-carboxylic Acid Methyl Ester | 0.184 g | COC(=O)C1=CC(=NC2=C(C=CC=C12)F)OC | C12H10FNO3
